US07713973B2
1-(3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)benzyl)-4-methylpiperazine was prepared by reacting 2-(3-(bromomethyl)phenyl)-4,4,5,5-tetramethyl-1,3,2-dioxaborolane (100 mg, 0.35 mmol) with methyl piperazine (196 μl, 1.76 mmol) in THF at room temperature for 2 hours. The intermediate product was purified by flash chromatography to afford 68 mg of colorless oil.

reactant | 2-(3-(bromomethyl)phenyl)-4,4,5,5-tetramethyl-1,3,2-dioxaborolane | 0.35 mmol, 100 mg | BrCC=1C=C(C=CC1)B1OC(C(O1)(C)C)(C)C | C13H18BBrO2
reactant | methyl piperazine | 1.76 mmol, 196 μl | CN1CCNCC1 | C5H12N2
solvent | THF | C1CCOC1 | C4H8O
product | 1-(3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)benzyl)-4-methylpiperazine | CC1(OB(OC1(C)C)C=1C=C(CN2CCN(CC2)C)C=CC1)C | C18H29BN2O2
